Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Motrin
 
Attending: ___.
 
Chief Complaint:
RUQ pain 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with hx SCLC with metastasis to liver presents wtih RUQ 
pain. Pt reports pain began 2 days PTA, +sharp quality, ___ 
without radiation, no exacerbating or alleviating factors, no 
change with PO intake. Denies fevers, chills, diahrrea, 
hematochezia.  
Had CT abdomen ___ which showed stable liver mets, increased 
retroperitoneal LAD.  
In ___, vss - afebrile T97.8, hr 57, bp 129/70, rr18, 98%ra, 
exam w/ RUQ tenderness without radiation, + ___. RUQ U/S 
showed patent CBD with portal and hepatic flow, e/o of 
metastasis, no portal vein thrombosis, no gallstones, no 
cholecystitis.  
.  

 
Past Medical History:
- Diagnosed with kidney mass in ___, presented with right 
flank pain and hematuria; ureteral stent was placed  
- Right nephrectomy performed in ___ per patient report, she 
was told that she required no adjuvant therapy for her cancer  
- Surveillance imaging until ___, when CT scan demonstrated 
small lucent primarily peripheral areas throughout the liver 
(new since ___, suspicious for diffuse metastatic disease; 
small cysts in the left kidney  
- Several T2 hyperintensities in the thoracic/lumbar vertebrae, 
c/w hemangiomas  
- As per ___ hematology note: pt has completed 6 cycles 
carboplatin and etoposide for extensive stage SCLC in ___. 
Since that time, diagnosed with metastatic brain lesion by MRI 
___, which demonstrated an enhancing lesion in the right 
posterior temporal lobe as well as a smaller right frontal 
lesion. She has been undergoing whole brain radiation therapy 
and has four remaining treatments.  
Notes report has had continued RUQ discomfort, rated ___ in 
severity, with occasional nausea and anorexia.  
.  
PMH:  
1. Urothelial carcinoma s/p nephrectomy  
2. Hypertension  
3. Hyperlipidemia  
4. Psoriasis  
5. Endometriosis  
6. Status post exploratory laparotomy x5  
7. History of seizure disorder  
8. Osteopenia with right ankle fracture in ___  
.  

 
Social History:
___
Family History:
pt's mother died at age ___ from an infection. Her father died at 
age ___ from mesothelioma after working in a ___ for many 
years. Her brother died in his ___ from mesothelioma. She has 
one half brother and half sister and does not know of their 
medical history. 
 
Physical Exam:
On Presentation:
VS: 97.9, hr 60, sbp 129/79, rr 18, 98%ra  
Gen: NAD, a/ox3, ___ normal  
HEENT: NCAT, EOMI, PERRL. Anicteric, no conjunctival pallor. OP 
clear, mildly dry membranes  
Neck: No JVD, no LAD  
Cor: RRR no m/r/g  
Pulm: CTAB no w/r/r  
Abd: soft +BS, ND, no HSM, mild RUQ tenderness (intermittent 
subjectively during exam), ___ sign  
Extrem: no c/c/e  
Skin: R and L hand extensor, elbow, and ___ excoriations  
Neuro: CN II-XII in tact bilaterally. Strength is ___ in upper 
and lower extremities and sensation to LT is in tact 
bilaterally. No tremor/asterixis. A&Ox3. Gait normal.  
.  

 
Pertinent Results:
___ 08:38PM   WBC-6.2 RBC-4.15* HGB-14.7 HCT-40.3 MCV-97 
MCH-35.4* MCHC-36.5* RDW-14.5
___ 08:38PM   NEUTS-83.7* LYMPHS-10.7* MONOS-3.8 EOS-1.6 
BASOS-0.2
___ 08:38PM   PLT COUNT-148*
.
___ 08:38PM   GLUCOSE-229* UREA N-9 CREAT-0.9 SODIUM-132* 
POTASSIUM-4.0 CHLORIDE-96 TOTAL CO2-26 ANION GAP-14
___ 08:38PM   ALT(SGPT)-173* AST(SGOT)-137* ALK PHOS-285* 
TOT BILI-0.8
___ 08:38PM   LIPASE-83*
___ 08:38PM   ALBUMIN-3.9
.
___ 01:15AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-1 PH-7.0 LEUK-NEG
___ 01:15AM URINE  ___ BACTERIA-FEW YEAST-NONE 
___
.
___ 05:45AM   CEA-254*
.
Liver U/S with Dopplers: IMPRESSION: 
1. Innumerable liver metastasis.
2. No biliary ductal dilatation.   
3. Portal and hepatic venous systems. 
.

 
Brief Hospital Course:
A/P: ___ with hx SCLC with metastasis to liver now with RUQ 
pain, ruled out for choledocholithiasis and cholangitis with RUQ 
U/S, admitted for pain control, likely ___ to metastatic 
disease.  
.  
# RUQ pain - Patient presented without leukocytosis or fever. No 
cbd obstruction on U/S. Labs indicate cholestatic presentation 
likely ___ to multiple mets. Statin was held and pain controlled 
with oxycodone. 
.  
# Hyponatremia - has had intermittent hyponatremia over past 
years. Exam supportive of likely hypovolemic ___ to decreased 
fluid intake vs. euvolemic post radiation to scalp within past 3 
weeks. Corrected with IVF. 
.  
# Small cell lung cancer metastatic to liver: Received 
cisplatin/irinotecan treatment on ___.  Given aprepitant 
and zofran for nausea which helped control this and she was sent 
home on day 2 after chemo administration.
.  
# Hyperglycemia - likely stress response, no hx diabetes. No 
obvious history of steriods. Did not require insulin while in 
house. 
.  
# hypertension - Patient was continued on atenolol 50mg AM, 25mg 
___, and amlodopine 5mg qd.  
.  
# Psoriasis - Longstanding history.  
- cont clobetasol  
.   
# code: full    

 
Medications on Admission:
1. AMLODIPINE - 5mg qd  
2. ATENOLOL - 50mg in am, 25 mg in pm qd  
3. CLOBETASOL [CLOBEX] - prn  
4. ONDANSETRON - 8mg - q8hr prn  
5. colace  
6. metamucil  

 
Discharge Medications:
1. Atenolol 25 mg Tablet Sig: One (1) Tablet PO QPM (once a day 
(in the evening)).  
2. Amlodipine 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

3. Clobetasol 0.05 % Cream Sig: One (1) Appl Topical BID (2 
times a day).  
4. Atenolol 50 mg Tablet Sig: One (1) Tablet PO QAM (once a day 
(in the morning)).  
5. Ondansetron 4 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8H (every 8 hours) as needed.  
6. Hydromorphone 2 mg Tablet Sig: ___ Tablets PO Q3H (every 3 
hours) as needed for Pain.
Disp:*20 Tablet(s)* Refills:*0*
7. Compazine 10 mg Tablet Sig: One (1) Tablet PO every four (4) 
hours as needed for nausea.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Metastatic small cell lung cancer

 
Discharge Condition:
good, VSS, on room air, tolerating PO

 
Discharge Instructions:
You came to the hospital for abdominal pain.  Scans show that 
you did not have an acute problem or infection with your liver 
or gall bladder.  Your pain was controlled with oral dilaudid.  
Additionally, you were given chemotherapy with 
cisplatin/irinotecan and had some nausea afterward, controlled 
with compazine.  Your urine did not show signs of infection and 
very small amount of blood.  Please drink plenty of liquids.
.
Medication changes:
Please take dilaudid and compazine as prescribed
.
Please call your MD or return to the ED if you have fevers, 
chills, nausea, vomitting, abdominal pain, diarrhea, chest pain, 
shortness of breath, numbness/tingling or other concerns
 
Followup Instructions:
___